US07423052B2
Description 34 (1-{1-[5-(4-Fluoro-phenyl)-2-methyl-thiazol-4yl]-methanoyl}-piperidin-2-yl)-acetic acid methyl ester
The title compound (2.1 g) was prepared from piperidin-2-yl-acetic acid methyl ester (3.4 g) and 2methyl-5-(4-fluorophenyl)-thiazole-4-carboxylic acid (2.20 g) according to the method of description 20.

reactant | piperidin-2-yl-acetic acid methyl ester | 3.4 g | COC(CC1NCCCC1)=O | C8H15NO2
reactant | 2methyl-5-(4-fluorophenyl)-thiazole-4-carboxylic acid | 2.20 g | CC=1SC(=C(N1)C(=O)O)C1=CC=C(C=C1)F | C11H8FNO2S
product | (1-{1-[5-(4-Fluoro-phenyl)-2-methyl-thiazol-4yl]-methanoyl}-piperidin-2-yl)-acetic acid methyl ester | 2.1 g | COC(CC1N(CCCC1)C(=O)C=1N=C(SC1C1=CC=C(C=C1)F)C)=O | C19H21FN2O3S
